US06765005B2
a) (2R)-N-[(1-Methyl-1H-indol-2-yl)methyl]-3-oxo-N,2,4-trimethyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxamide
To a stirred solution of tert-butyl (2R)-2,4-dimethyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylate (0.75 g, 2.6 mmole) in CH2Cl2 (20 mL) was added trifluoroacetic acid (20 mL). After stirring at RT for 45 min the reaction was concentrated on the rotavap. The residue was redissolved in 4 N HCl in dioxane (50 mL), and the solution was concentrated to dryness. Trituration with Et2O, filtration, and drying under vacuo gave the crude carboxylic acid-hydrochloride salt as a white solid. To a stirred solution of this material in 1:1 DMF/CH2Cl2 (50 mL) was added 1-methyl-2-(methylaminomethyl)indole (0.42 g, 2.6 mmole), Et3N (0.73 mL, 5.2 mmole), HOBt.H2O (0.35 g, 2.6 mmole), and EDC.HCl (0.5 g, 2.6 mmole). After stirring for 18 h the reaction was concentrated on the rotavap, and the residue was taken up in EtOAc (50 mL). The solution was washed sequentially with H2O (50 mL), 1.0 N Na2CO3 (50 mL), and brine (50 mL), then was dried (Na2SO4) and concentrated. Purification by flash chromatography on silica gel (EtOAc) gave the title compound (0.87 g, 86%) as a white solid: MS (ES) m/e 391.2 (M+H)+.

reactant | tert-butyl (2R)-2,4-dimethyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylate | 2.6 mmole, 0.75 g | C[C@H]1NC2=C(CN(C1=O)C)C=C(C=C2)C(=O)OC(C)(C)C | C16H22N2O3
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-methyl-2-(methylaminomethyl)indole | 2.6 mmole, 0.42 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | Et3N | 5.2 mmole, 0.73 mL | CCN(CC)CC | C6H15N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 2.6 mmole, 0.35 g | O | H2O
reactant | EDC.HCl | 2.6 mmole, 0.5 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF CH2Cl2 | 50 mL | CN(C)C=O.C(Cl)Cl
product | (2R)-N-[(1-Methyl-1H-indol-2-yl)methyl]-3-oxo-N,2,4-trimethyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxamide | 0.87 g, 86% | CN1C(=CC2=CC=CC=C12)CN(C(=O)C=1C=CC2=C(CN(C([C@H](N2)C)=O)C)C1)C | C23H26N4O2
